US08008525B2
Ethyl 3-{3,5-difluoro-4-[(3-isobutoxybenzyl)oxy]phenyl}propanoate
Ethyl 3-{3,5-difluoro-4-[(3-hydroxybenzyl)oxy]phenyl}propanoate (200 mg, 0.59 mmol) was dissolved in DMF (10 mL), isobutyl iodide (339 μL, 3.0 mmol) and sodium hydride (47 mg, 1.2 mmol) were added thereto, and then the mixture was stirred at room temperature for 3 hours. To the reaction solution was added water, and the reaction mixture was extracted with ethyl acetate. The extract was dried, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 80:20) to give the title compound (186 mg, yield 80%) as an oily matter.

reactant | Ethyl 3-{3,5-difluoro-4-[(3-hydroxybenzyl)oxy]phenyl}propanoate | 0.59 mmol, 200 mg | FC=1C=C(C=C(C1OCC1=CC(=CC=C1)O)F)CCC(=O)OCC | C18H18F2O4
reactant | isobutyl iodide | 3.0 mmol, 339 μL | C(C(C)C)I | C4H9I
reactant | sodium hydride | 1.2 mmol, 47 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-{3,5-difluoro-4-[(3-isobutoxybenzyl)oxy]phenyl}propanoate | 186 mg, yield 80% | FC=1C=C(C=C(C1OCC1=CC(=CC=C1)OCC(C)C)F)CCC(=O)OCC | C22H26F2O4
